US06222034B1
3,4,5,6,7,8-Hexahydro-2,7-dimethyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)-ethyl]-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one
1.9 g (6.2 mmol) of ethyl N-(3-carboethoxy-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-2-yl)ethanimidate in 30 ml of ethanol were mixed with 1.5 g (6.2 mmol) of 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine and refluxed for 7 h. The mixture was then concentrated in a rotary evaporator, and the residue was taken up in 20 ml of ethyl acetate. 2.1 g of crude product crystallized out overnight and were filtered off with suction and purified by column chromatography (silica gel, mobile phase methylene chloride/methanol 92/8). 0.8 g (29%) of product was isolated.

reactant | ethyl N-(3-carboethoxy-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-2-yl)ethanimidate | 6.2 mmol, 1.9 g | C(=O)(OCC)C1=C(SC=2CN(CCC21)C)N=C(C)OCC | C15H22N2O3S
reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine | 6.2 mmol, 1.5 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,4,5,6,7,8-Hexahydro-2,7-dimethyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)-ethyl]-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | 0.8 g, 29% | CC=1N(C(C2=C(N1)SC1=C2CCN(C1)C)=O)CCN1CCN(CC1)C1=C(C=CC=C1)OC | C24H31N5O2S
